US04962202
(1) 4-Benzoylthio-2-pyrrolidone
Triphenylphosphine (10.5 g) was dissolved in 50 ml of THF and THF (3 ml) solution of diethyl azodiethylcarboxylate (6.97 g) was added under ice cooling. After 30 minutes, THF 30 ml was added thereto and a suspension of 4-hydroxy-2-pyrrolidone (2.02 g) [synthesized by the method disclosed in Pellegata et al., "Synthesis", 615(1978)] and thiobenzoic acid (4.71 ml) in 80 ml THF was added thereto dropwise over 20 minutes. Further the solution was stirred for 1.5 hours at room temperature and concentrated in vacuo. The concentrate was dissolved in ethyl acetate and washed with 5% aqueous solution of sodium bicarbonate and then saturated aqueous solution of NaCl, dried over Na2SO4 and concentrated in vacuo. The residue was purified by chromatography utilizing 120 g of silica gel [eluted with a mixed solve composed of benzene and ethyl acetate in which the mixing ratio is gradually changed from 1:1 to 1:4 and to 1:9] and the objective compound, as yellow powder, was obtained (m.p.=110°~112° C.; yield: 3.47 g).

reactant | Triphenylphosphine | 10.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-hydroxy-2-pyrrolidone | 2.02 g | OC1CC(NC1)=O | C4H7NO2
reactant | thiobenzoic acid | 4.71 ml | C(C1=CC=CC=C1)(=S)O | C7H6OS
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | THF | 80 ml | C1CCOC1 | C4H8O
reactant | THF | 30 ml | C1CCOC1 | C4H8O
reactant | THF | 3 ml | C1CCOC1 | C4H8O
product | 4-Benzoylthio-2-pyrrolidone | C(C1=CC=CC=C1)(=O)C1CC(NC1)=S | C11H11NOS
